US07932247B2
1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperazinecarboxylate
A solution of 1,1-dimethylethyl 4-[(3′-cyano-3-biphenylyl)methyl]-1-piperazinecarboxylate (4.5 g) in THF (30 mL) was treated with borane. THF (47.7 mL, 1M in THF) and the resulting mixture was heated at reflux for 1 hour. After cooling to room temperature, the reaction mixture was quenched with saturated ammonium chloride solution (20 mL) and extracted with ethyl acetate (3×30 mL). The combined organics were dried (MgSO4), concentrated under vacuum to give a residue which was purified by flash chromatography on silica (100 g) to yield the title compound (1.1 g). LC/MS: m/z, 382 (M+H), 1.86 min.

reactant | 1,1-dimethylethyl 4-[(3′-cyano-3-biphenylyl)methyl]-1-piperazinecarboxylate | 4.5 g | C(#N)C=1C=C(C=CC1)C1=CC(=CC=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C23H27N3O2
reactant | borane | B | BH3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 1M, 47.7 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperazinecarboxylate | 1.1 g | NCC=1C=C(C=CC1)C1=CC(=CC=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C23H31N3O2
